US08664401B2
Step B: 5-[(4-bromophenoxy)methyl]-2-methoxypyridine
4-Bromophenol (1.37 g, 7.90 mmol) was added to a solution of (6-methoxypyridin-3-yl)methanol (1.0 g, 7.16 mmol) in THF (100 mL). Triphenylphosphine (1.88 g, 7.19 mmol) was added followed by triethylamine (0.727 g, 7.19 mmol). The resulting solution was cooled to 0° C. and DIAD (1.45 g, 7.19 mmol) was added by drop-wise addition and was maintained at 0° C. for 30 minutes, then warmed to room temperature and stirred for two days. The reaction was quenched by addition of water and extracted with ether (2×100 mL). The organic layer was washed with water (2×100 mL) then brine (1×100 mL), dried (MgSO4), filtered and concentrated to give a yellow oil. The crude material was purified by flash column chromatography on a Biotage SNAP cartridge Kp-sil 100 g column (hexanes/ethyl acetate 9:1) to give a white solid. Mass/Yield—1.78 g/84% TLC (hexanes/ethyl acetate=8:2) Rf=0.12, UV active. LCMS MS ES+ 294.4/296.4. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.93 (s, 3H) 4.93 (s, 2H) 6.72-6.78 (m, 1H) 6.81-6.86 (m, 2H) 7.33-7.42 (m, 2H) 7.58-7.65 (m, 1H) 8.18 (s, 1H).

reactant | 4-Bromophenol | 7.90 mmol, 1.37 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | (6-methoxypyridin-3-yl)methanol | 7.16 mmol, 1.0 g | COC1=CC=C(C=N1)CO | C7H9NO2
reactant | Triphenylphosphine | 7.19 mmol, 1.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 7.19 mmol, 0.727 g | C(C)N(CC)CC | C6H15N
reactant | DIAD | 7.19 mmol, 1.45 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-[(4-bromophenoxy)methyl]-2-methoxypyridine | BrC1=CC=C(OCC=2C=CC(=NC2)OC)C=C1 | C13H12BrNO2
